US06455550B1
Preparation of 4-[[(2,6-Dichlorophenyl)carbonyl]amino]-N-[[1-(4-hydroxybutyl)cyclopentyl]carbonyl]-L-phenylalanine Methyl Ester
To a suspension of 4-[[(2,6-dichlorophenyl)carbonyl]amino]-N-[[1-(3-butenyl)cyclopentyl]carbonyl]-L-phenylalanine methyl ester (3.13 mmol, 1.62 g) and anhydrous copper (I) chloride (5.0 mmol, 500 mg) in THF (30 mL) was added solid sodium borohydride (5.0 mmol, 200 mg) at −5° C. over 5 min. After the addition, the reaction mixture was allowed to warm to room temperature and the brown reaction mixture was stirred for 36 h at which time TLC analysis of the mixture indicated the absence of starting material. Then, the excess hydride was quenched by the addition of water (5 mL) and the reaction mixture was cooled to 0° C. To this, a solution of sodium acetate (20 mL, 3.0N) was added dropwise maintaining the temperature below 10° C. this was followed by H2O2 (25 mL, 30%). After addition of hydrogen peroxide, the reaction mixture was allowed to warm to room temperature and was stirred for 3h and followed by 1 h at 40-45° C. to complete the hydrolysis. Then, it was poured into a mixture of water (50 mL) and ethyl acetate (50 mL). The two layers were separated and the aqueous layer was extracted with ethyl acetate (2×30 mL). The comined extracts were washed with brine solution and dried over anhydrous magnesium sulfate. Filtration of the drying agent and removal of the solvent gave a crude product which was purified by silica gel column chromatography to afford 1.04 g (62%) of a white amorphous solid. HR MS (C27H32Cl2N2O5): Obs. mass, 535.1758. Calcd. mass, 535.1766, M+H).

reactant | 4-[[(2,6-dichlorophenyl)carbonyl]amino]-N-[[1-(3-butenyl)cyclopentyl]carbonyl]-L-phenylalanine methyl ester | 3.13 mmol, 1.62 g | COC([C@@H](NC(=O)C1(CCCC1)CCC=C)CC1=CC=C(C=C1)NC(=O)C1=C(C=CC=C1Cl)Cl)=O | C27H30Cl2N2O4
reactant | sodium borohydride | 5.0 mmol, 200 mg | [BH4-].[Na+]
reactant | water | 50 mL | O | H2O
reactant | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | THF | 30 mL | C1CCOC1 | C4H8O
catalyst | copper (I) chloride | 5.0 mmol, 500 mg | [Cu]Cl
product | 4-[[(2,6-Dichlorophenyl)carbonyl]amino]-N-[[1-(4-hydroxybutyl)cyclopentyl]carbonyl]-L-phenylalanine Methyl Ester | 1.04 g, 62% | COC([C@@H](NC(=O)C1(CCCC1)CCCCO)CC1=CC=C(C=C1)NC(=O)C1=C(C=CC=C1Cl)Cl)=O | C27H32Cl2N2O5
